US06306463B1
N,N′,N″-tri-n-propylcitramide was prepared by the reaction of n-propylamine with triethylcitrate. To a round-bottomed flask were added triethylcitrate (30.245 g; 1 eq), n-propylamine (19.427 g; 3.16 eq) and methanol (40 mL). The clear light yellow solution stirred for 3 days at room temperature prior to the removal of methanol via rotary evaporation at 50° C. The resulting yellow liquid was dried in vacuo at 70° C. and a tacky white solid was obtained. The crude solid was triturated using diethylether, collected via filtration and dried in vacuo to give a white powder with a slight odor (19.19 g; 55% yield).

reactant | n-propylamine | C(CC)N | C3H9N
reactant | triethylcitrate | C(C)C(C(C(C(=O)[O-])(CC)CC)(O)C(=O)[O-])C(=O)[O-]
reactant | triethylcitrate | 30.245 g, 1 eq | C(C)C(C(C(C(=O)[O-])(CC)CC)(O)C(=O)[O-])C(=O)[O-]
reactant | n-propylamine | 19.427 g, 3.16 eq | C(CC)N | C3H9N
solvent | methanol | 40 mL | CO | CH4O
product | N,N′,N″-tri-n-propylcitramide | 55% yield | C(CC)NC(CC(O)(C(=O)NCCC)CC(=O)NCCC)=O | C15H29N3O4
